US07687643B2
Step A—Preparation of (2-Chloro(3-pyridyl))-N-(4-imidazolylphenyl)carboxamide
A slurry of 4-imidazolylphenylamine (15.9 mg, 0.100 mmol), polymer-supported DIPEA (0.100 g, 0.362 mmol, 3.62 mmol/g loading) in CH2Cl2 (2 ml) was treated with a 2-chloropyridine-3-carbonyl chloride solution (0.10 M, 0.200 mmol, 2.0 ml, 2.0 eq) in CH2Cl2. The mixture was vortexed at RT for 14 h. Afterwards, the excess acid chloride was removed by treating the reaction mixture with polymer-supported trisamine resin (0.100 g, 0.375 mmol, 3.75 mmol/g loading). The slurry was shaken at RT for an additional 18 h. The reaction mixture was filtered, rinsed with CH2Cl2 (1 ml), and the filtrate was concentrated under reduced pressure. The resulting brown oil was used directly in the subsequent reaction.

reactant | 4-imidazolylphenylamine | 0.100 mmol, 15.9 mg | N1C(=NC=C1)C1=CC=C(C=C1)N | C9H9N3
reactant | DIPEA | 0.362 mmol, 0.100 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-chloropyridine-3-carbonyl chloride | 0.200 mmol, 0.10 M, 2.0 ml, 2.0 eq | ClC1=NC=CC=C1C(=O)Cl | C6H3Cl2NO
reactant | trisamine | 0.375 mmol, 0.100 g | C(C(CO)(CO)N)O | C4H11NO3
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | (2-Chloro(3-pyridyl))-N-(4-imidazolylphenyl)carboxamide | ClC1=NC=CC=C1C(=O)NC1=CC=C(C=C1)C=1NC=CN1 | C15H11ClN4O
